US06485886B1
(5-Diethoxythiophosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile
8 g (33 mmol) of (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile, prepared as described in example 7.1, are dissolved in 90 ml of THF and cooled in an ice bath. After adding 6.9 g (36 mmol) of diethyl chlorothiophosphate to the solution, 5.0 g (50 mmol) of triethylamine are added dropwise, keeping the temperature below 50° C. The reaction mixture is stirred at 50° C. for 60 min, then is poured into 100 ml of water, and extracted with ethyl acetate. The organic phase is washed with 0.1N hydrochloric acid solution, water, and sodium chloride solution. The organic phase is dried over MgSO4, the solvent is distilled off, and the residue is purified by a recrystallization from 2-PrOH. The product is obtained in the form of a brown solid, melting point 86-87° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.41 (t, 6H), 2.37 (s, 3H), 4.35-4.46 (m, 4H), 6.13 (d, 1H), 6.85 (d, 1H), 7.19-7.38 (m, 4H).

reactant | (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 33 mmol, 8 g | ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C13H10N2OS
reactant | diethyl chlorothiophosphate | 36 mmol, 6.9 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | triethylamine | 50 mmol, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | (5-Diethoxythiophosphoryloxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | C(C)OP(=S)(OCC)ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C17H19N2O3PS2
